US07399774B2
Add drop-wise a solution of BBr3 (14.8 g, 59.1 mmol) dissolved in DCM (50 ml) to a solution of 5-Methoxy-4-methyl-1-indanone (Tetrahedron (1970), 26(11), 2599-608) (4.17 g, 23.6 mmol) dissolved in DCM (50 ml) and cooled to −78° C. under nitrogen. After stirring at −78° C. for one hour, remove the cold bath and stir at ambient temperature overnight. Cool the reaction mixture to −78° C. and quench with saturated aqueous NaHCO3. Dilute mixture with water and extract with EtOAc (2×). Wash extracts with water and brine, dry (MgSO4) and concentrate on rotary evaporator to give 5-hydroxy4-methyl-1-indanone (2.60 g) as an amber solid.

reactant | BBr3 | 59.1 mmol, 14.8 g | B(Br)(Br)Br | BBr3
reactant | 5-Methoxy-4-methyl-1-indanone | 23.6 mmol, 4.17 g | COC=1C(=C2CCC(C2=CC1)=O)C | C11H12O2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-hydroxy4-methyl-1-indanone | 2.60 g | OC=1C(=C2CCC(C2=CC1)=O)C | C10H10O2
